US04783472
7-chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride (4.5 g) is added, at a temperature between 60° C. and 68° C., to a solution of 3-phenoxyaniline (2.8 g) and triethylamine (3.05 g) in dioxane (100 cc) heated to a temperature in the vicinity of 60° C., in the course of 5 minutes. The suspension obtained is heated, with stirring, at a temperature in the vicinity of 100° C. for 6 hours and 15 minutes and is then stirred at a temperature in the vicinity of 20° C. for 16 hours. The solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. The residue is dissolved in methylene chloride (250 cc) and the solution obtained is washed twice with distilled water (200 cc in total), twice with an aqueous 4N sodium hydroxide solution (200 cc in total) and twice with distilled water (200 cc in total) and then dried over anhydrous magnesium sulphate, treated with decolourizing charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 50° C. Crude product (6.7 g) is thereby obtained. This product is dissolved in boiling isopropanol (25 cc). Decolourizing charcoal (0.5 g) is added to the solution obtained and the suspension is filtered in the heated state. The filtrate is cooled at a temperature in the vicinity of 4° C. for 3 hours. The crystals formed are separated by filtration, washed 4 times with ispropanol (20 cc in total) and then 3 times with diethyl ether (75 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 20° C. in the presence of potassium hydroxide pellets. N-(3-phenoxyphenyl)-3(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide (2.1 g) in the form of creamcoloured crystals, m.p. 144° C., is thereby obtained.

reactant | 7-chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride | 4.5 g | Cl.ClC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2
reactant | 3-phenoxyaniline | 2.8 g | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
reactant | triethylamine | 3.05 g | C(C)N(CC)CC | C6H15N
reactant | charcoal | 0.5 g | C | CH4
solvent | dioxane | 100 cc | O1CCOCC1 | C4H8O2
solvent | isopropanol | 25 cc | C(C)(C)O | C3H8O
product | N-(3-phenoxyphenyl)-3(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide | 2.1 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)NC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2 | C24H19N3O2S
